US05847149
(6-Decyloxy-2-fluoropyrid-3-yl)boronic acid (3.7 g, 12.4 mmol) and 2-bromo-5-phenyl-1,3,4-thiadiazole (1.0 g, 4.15 mmol) are refluxed for 6 hours in a mixture of sodium carbonate (3.95 g), toluene (50 ml), ethanol (25 ml) and water (25 ml) and tetrakis(triphenylphosphine)palladium(0) (5 mol %) as catalyst. Aqueous work-up and column chromatography (SiO2, CH2C12) give 1.4 g (82% of theory) of 2-(6-decyloxy-2-fluoropyrid-3-yl)-5-phenyl-1,3,4-thiadiazole.

reactant | (6-Decyloxy-2-fluoropyrid-3-yl)boronic acid | 12.4 mmol, 3.7 g | C(CCCCCCCCC)OC1=CC=C(C(=N1)F)B(O)O | C15H25BFNO3
reactant | 2-bromo-5-phenyl-1,3,4-thiadiazole | 4.15 mmol, 1.0 g | BrC=1SC(=NN1)C1=CC=CC=C1 | C8H5BrN2S
catalyst | sodium carbonate | 3.95 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | ethanol | 25 ml | C(C)O | C2H6O
catalyst | water | 25 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-decyloxy-2-fluoropyrid-3-yl)-5-phenyl-1,3,4-thiadiazole | 1.4 g, 82% | C(CCCCCCCCC)OC1=CC=C(C(=N1)F)C=1SC(=NN1)C1=CC=CC=C1 | C23H28FN3OS
